US04107308
4-Benzylaminoimidazo[1,5-d]-as-triazine
A solution of 16.6 g of 4-(methylthio)imidazo[1,5-d]-as-triazine, 51.3 ml (50.3 g) of benzylamine and 580 ml of toluene is refluxed for 10 days. After cooling, a precipitate is collected and recrystallized from methanol to yield the desired product, m.p. 275°-278° C.

reactant | 4-(methylthio)imidazo[1,5-d]-as-triazine | 16.6 g | CSC1=NN=CC=2N1C=NC2 | C6H6N4S
reactant | benzylamine | 51.3 ml, 50.3 g | C(C1=CC=CC=C1)N | C7H9N
solvent | toluene | 580 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Benzylaminoimidazo[1,5-d]-as-triazine | C(C1=CC=CC=C1)NC1=NN=CC=2N1C=NC2 | C12H11N5
